US07645760B2
3.49 g (17.0 mmol) 4-Chlorobenzylbromide was added dropwise to a mixture of 2.04 g (20.4 mmol) 2-Methyl piperazine and 2.40 ml (17 mmol) triethylamine in 60 ml DMF at room temperature. The reaction mixture was stirred for 16 hours at room temperature, the poured onto aq. sodium bicarbonate solution and extracted with ethylacetate. Purification of the crude product by flash chromatography gave 2.26 g (10.1 mmol, 59%) of 1-(4-chloro-benzyl)-3-methyl-piperazine as colorless oil.

reactant | 4-Chlorobenzylbromide | 17.0 mmol, 3.49 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | 2-Methyl piperazine | 20.4 mmol, 2.04 g | CC1NCCNC1 | C5H12N2
reactant | triethylamine | 17 mmol, 2.40 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1-(4-chloro-benzyl)-3-methyl-piperazine | 10.1 mmol, 2.26 g, 59% | ClC1=CC=C(CN2CC(NCC2)C)C=C1 | C12H17ClN2
